US07897788B2
2-cyano-N-phenyl-acetamide
Cyanoacetic acid (1.0 g, 11.7 mmol) is added to a stirred suspension of PCl5 (2.4 g, 11.7 mmol) in dry dichloromethane (200 ml). The reaction mixture is heated to reflux and kept stirring for 30 min. After cooling to rt, aniline (1.07 ml, 11.7 mmol) is added dropwise and the reaction is stirred at reflux for additional 2 h, then cooled to 0° C. and neutralized by addition of aqueous saturated Na2CO3 solution. The precipitate is filtered off, washed with water and dried under high vacuum to give title compound (1.54 g) as a white solid in 82% yield: tR (LC-2) 1.50 min; ESI-MS(+): m/z 183.33 [M+Na]+ (calcd 160.17 for C9H8N2O).

reactant | Cyanoacetic acid | 11.7 mmol, 1.0 g | C(#N)CC(=O)O | C3H3NO2
reactant | PCl5 | 11.7 mmol, 2.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | aniline | 11.7 mmol, 1.07 ml | NC1=CC=CC=C1 | C6H7N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-cyano-N-phenyl-acetamide | 1.54 g, 82% yield | C(#N)CC(=O)NC1=CC=CC=C1 | C9H8N2O
